US03966934
B. Synthesis of 2-Methylamino-4'-butoxy-2',6'-dimethyl-propionanilide (Compound F)
To a cold stirred solution of 14.8 g. of monomethyl amine in 250 ml dry benzene was added (portionwise, keeping temperature below 10°), 19.5 g (0.0594 mole) of 2-bromo-4'-butoxy-2',6'-dimethyl propionanilide (made according to the procedure in the first part of this example); this dissolved readily, forming a clear solution. The mixture was heated to 70° for ca 1 hr. with stirring, at which point a white precipitate had separated and reflux became so vigorous that the reaction had to be controlled by external cooling.

reactant | monomethyl amine | CN | CH5N
reactant | 2-bromo-4'-butoxy-2',6'-dimethyl propionanilide | 0.0594 mole, 19.5 g | BrC(C(=O)NC1=C(C=C(C=C1C)OCCCC)C)C | C15H22BrNO2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-Methylamino-4'-butoxy-2',6'-dimethyl-propionanilide | CNC(C(=O)NC1=C(C=C(C=C1C)OCCCC)C)C | C16H26N2O2
